US08071768B2
b. 4-(6,7-Dimethoxy-quinazolin-4-yl)-piperidine-1-carboxylic acid (4-morpholin-4-yl-phenyl)-amide
A mixture of 6,7-dimethoxy-4-piperidin-4-yl-quinazoline (111.4 mg, 408 μmol), prepared as described in Example 1d, but with purification by silica flash chromatography (9:1 DCM/MeOH saturated with NH3), (4-morpholin-4-yl-phenyl)-carbamic acid 4-nitro-phenyl ester (147 mg, 429 μmol), prepared as described in the previous step, and DCM (700 μL) was treated with TEA (63 μL, 449 μmol) in one portion at rt. The homogeneous amber solution was stirred at rt for 3.5 h, diluted with DCM (1.3 mL), and washed with 2 M K2CO3 (2 mL). The aqueous layer was extracted with DCM (2×2 mL), the organic layers were combined, dried (Na2SO4), and concentrated, and the residue was purified with silica flash chromatography (1:1 DCM/acetone) to afford the title compound (167.1 mg, 86%). 1H-NMR (300 MHz, CDCl3): δ 9.08 (s, 1H), 7.34 (s, 1H), 7.31-7.24 (m, 3H), 6.88 (m, 2H), 6.31 (br s, 1H), 4.32-4.22 (m, 2H), 4.07 (s, 3H), 4.06 (s, 3H), 3.86 (m, 4H), 3.59 (m, 1H), 3.23-3.07 (m, 6H), 2.24-2.07 (m, 2H), 2.05-1.93 (m, 2H). LC/MS (ESI): calcd mass 477.2, found 478.3 (MH+). Select fractions of this material were combined (112.5 mg) and submitted for combustion analysis: Anal. Calcd for C26H31N5O4: C, 65.39; H, 6.54; N, 14.67. Found: C, 65.26; H, 6.58; N, 14.51.

reactant | 6,7-dimethoxy-4-piperidin-4-yl-quinazoline | 408 μmol, 111.4 mg | COC=1C=C2C(=NC=NC2=CC1OC)C1CCNCC1 | C15H19N3O2
reactant | (4-morpholin-4-yl-phenyl)-carbamic acid 4-nitro-phenyl ester | 429 μmol, 147 mg | [N+](=O)([O-])C1=CC=C(C=C1)OC(NC1=CC=C(C=C1)N1CCOCC1)=O | C17H17N3O5
solvent | DCM MeOH | C(Cl)Cl.CO
solvent | NH3 | N | H3N
solvent | DCM | 1.3 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 700 μL | C(Cl)Cl | CH2Cl2
product | 4-(6,7-Dimethoxy-quinazolin-4-yl)-piperidine-1-carboxylic acid (4-morpholin-4-yl-phenyl)-amide | 167.1 mg, 86% | N1(CCOCC1)C1=CC=C(C=C1)NC(=O)N1CCC(CC1)C1=NC=NC2=CC(=C(C=C12)OC)OC | C26H31N5O4
